US04721791
A stirred, ambient temperature solution of 5-amino-1,2,3-triazole-4-carboxamide (630 mg, 5.0 mmol) in dry N,N-dimethylformamide (20 ml) was treated with sodium hydride (250 mg of a 50% dispersion in mineral oil, 125 mg NaH, 5.2 mmol). The resulting suspension was stirred 10 min., 4-cyano-3,5-dichlorobenzyl chloride (1.1 g, 5.0 mmol) was added, and the mixture was stirred 2 hours. The reaction was quenched by pouring into ice and water (80 ml). The suspension was filtered and washed three times with water. The solid was suspended in 19:1 (v/v) dichloromethane-methanol and filtered to provide 364 mg (23%) 5-amino-1-(4-cyano-3,5-dichlorobenzyl)-1,2,3-triazole-4-carboxamide. Recrystallization from ethanol provided material of m.p. 238°-239.5° C.

reactant | 5-amino-1,2,3-triazole-4-carboxamide | 5.0 mmol, 630 mg | NC1=C(N=NN1)C(=O)N | C3H5N5O
reactant | sodium hydride | [H-].[Na+]
reactant | NaH | 125 mg | [H-].[Na+]
reactant | 4-cyano-3,5-dichlorobenzyl chloride | 5.0 mmol, 1.1 g | C(#N)C1=C(C=C(CCl)C=C1Cl)Cl | C8H4Cl3N
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-amino-1-(4-cyano-3,5-dichlorobenzyl)-1,2,3-triazole-4-carboxamide | 364 mg, 23% | NC1=C(N=NN1CC1=CC(=C(C(=C1)Cl)C#N)Cl)C(=O)N | C11H8Cl2N6O
